US05306830
Preparation of Intermediate 3-(Di-n-propylamino)-5-methoxychroman
To a solution of 8-bromo-5-methoxy-3-chromanone (125 mg, 0.49 mmol) in benzene (20 ml) was added di-n-propylamine (0.5 ml, 3.7 mmol) and p-toluenesulfonic acid monohydrate (10 mg, 0.08 mmol). The solution was refluxed for 5 hours with a Dean-Stark apparatus under N2 -atmosphere. The reaction mixture was poured into a Parr-flask, absolute ethanol was added (50 ml) and pH was adjusted to 11 with 2M-NaOH-solution. The product was hydrogenated overnight with Pd/C as catalyst. The catalysst was filtered off and the solvent was evaporated. The residual oil was dissolved in CH2Cl2 and washed with 5% aqueous Na2CO3. The phases were separated and the organic layer was dried (Na2CO3) yielding 99 mg (77%) of the product as an oil with physical data identical with authentic material synthesized by alternative methods.

reactant | 8-bromo-5-methoxy-3-chromanone | 0.49 mmol, 125 mg | BrC=1C=CC(=C2CC(COC12)=O)OC | C10H9BrO3
reactant | di-n-propylamine | 3.7 mmol, 0.5 ml | C(CC)NCCC | C6H15N
reactant | p-toluenesulfonic acid monohydrate | 0.08 mmol, 10 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaOH | [OH-].[Na+]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
catalyst | Pd/C | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-(Di-n-propylamino)-5-methoxychroman | 99 mg, 77% | C(CC)N(C1COC2=CC=CC(=C2C1)OC)CCC | C16H25NO2
